US07485283B2
Synthesis of 3-Methyl-2-methylsulfanyl-chromen-4-one
To a solution containing 2-mercapto-3-methyl-chromen-4-one (2.26 g, 11.76 mmol) and potassium carbonate (1.62 g, 11.76 mmol) in acetone (120 mL) was added iodomethane (807 μL, 12.93 mmol). The reaction stirred under nitrogen atmosphere at room temperature for 16 hours before being concentrated to yield a crude oil. The residue was taken up in water and adjusted to pH 7 with 5% HCl. The resulting aqueous layer was washed with ethyl acetate. The the organic layer was then washed with water and brine, dried over sodium sulfate, filtered, and concentrated to obtain the desired product as a yellow solid (1.95 g, 80% yield), which was taken on to the next step without further purification. 1H NMR (600 MHz, CDCl3): δ 8.21 (d, 1H, J=6.6 Hz), 7.61 (m, 1H), 7.38 (m, 2H), 2.66 (s, 3H), 2.09 (s, 3H).

reactant | 2-mercapto-3-methyl-chromen-4-one | 11.76 mmol, 2.26 g | SC=1OC2=CC=CC=C2C(C1C)=O | C10H8O2S
reactant | potassium carbonate | 11.76 mmol, 1.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 12.93 mmol, 807 μL | IC | CH3I
reactant | HCl | Cl | ClH
solvent | acetone | 120 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-Methyl-2-methylsulfanyl-chromen-4-one | 1.95 g, 80% yield | CC1=C(OC2=CC=CC=C2C1=O)SC | C11H10O2S
